US07863332B2
g. Synthesis of (E)-3-[3′-(1-ethyl-3-heptylureido)biphenyl-4-yl]acrylic acid
In a manner similar to that of Example (19g), by reaction of 400 mg (10 mmol, 5.5 eq) of sodium hydroxide and 775 mg (1.83 mmol, 1 eq) of methyl (E)-3-[3′-(1-ethyl-3-heptylureido)biphenyl-4-yl]acrylate in 15 ml of a tetrahydrofuran/methanol mixture (8/2), and after crystallization from dichloromethane/heptane, 580 mg of (E)-3-[3′-(1-ethyl-3-heptylureido)biphenyl-4-yl]acrylic acid are obtained in the form of a white powder (m.p.=116° C.). Yield=77%

reactant | sodium hydroxide | 10 mmol, 400 mg, 5.5 eq | [OH-].[Na+]
reactant | methyl (E)-3-[3′-(1-ethyl-3-heptylureido)biphenyl-4-yl]acrylate | 1.83 mmol, 775 mg, 1 eq | C(C)N(C(=O)NCCCCCCC)C=1C=C(C=CC1)C1=CC=C(C=C1)/C=C/C(=O)OC | C26H34N2O3
solvent | tetrahydrofuran methanol | 15 ml | O1CCCC1.CO
product | (E)-3-[3′-(1-ethyl-3-heptylureido)biphenyl-4-yl]acrylic acid | Yield=77% | C(C)N(C(=O)NCCCCCCC)C=1C=C(C=CC1)C1=CC=C(C=C1)/C=C/C(=O)O | C25H32N2O3
